US07994336B2
a) Synthesis of 3-chloro-3-(4-methoxy-phenyl)-2-oxo-propionic acid methyl ester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester but using 4-methoxybenzaldehyde instead 4-fluorobenzaldehyde.

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 4-methoxybenzaldehyde | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-chloro-3-(4-methoxy-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)OC)Cl)=O)=O | C11H11ClO4
